US08633189B2
To 3-(5-methyl-2-(6-(trifluoromethoxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxamido)phenyl)prop-2-ynyl methanesulfonate (20 mg, 0.04 mmol) in dichloromethane (1 mL) and DIEA (0.1 mmol) was added morpholine (36 μL, 0.4 mmol). The mixture was stirred for 10 hrs at room temperature. The mixture was concentrated in vacuo and then taken up in methanol. Purification via HPLC (10-99% CH3CN/5 mM HCl) provided N-(4-methyl-2-(3-morpholinoprop-1-ynyl)phenyl)-6-(trifluoromethoxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxamide bis-hydrochloride (5 mg, 22% yield). LC/MS m/z 476.5 [M+H]+.

reactant | 3-(5-methyl-2-(6-(trifluoromethoxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxamido)phenyl)prop-2-ynyl methanesulfonate | 0.04 mmol, 20 mg | CS(=O)(=O)OCC#CC1=C(C=CC(=C1)C)NC(=O)C1CNC2=C(O1)C=CC(=C2)OC(F)(F)F | C21H19F3N2O6S
reactant | DIEA | 0.1 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | morpholine | 0.4 mmol, 36 μL | N1CCOCC1 | C4H9NO
reactant | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-(4-methyl-2-(3-morpholinoprop-1-ynyl)phenyl)-6-(trifluoromethoxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxamide bis-hydrochloride | 5 mg, 22% yield | Cl.Cl.CC1=CC(=C(C=C1)NC(=O)C1CNC2=C(O1)C=CC(=C2)OC(F)(F)F)C#CCN2CCOCC2 | InChI=1S/C24H24F3N3O4.2ClH/c1-16-4-6-19(17(13-16)3-2-8-30-9-11-32-12-10-30)29-23(31)22-15-28-20-14-18(34-24(25,26)27)5-7-21(20)33-22;;/h4-7,13-14,22,28H,8-12,15H2,1H3,(H,29,31);2*1H
